US05770180
To a stirred solution of triisopropyl borate (4.6 mL, 20 mmol) in THF (1 mL) at -78° C. under nitrogen was added 4-fluorophenylmagnesium bromide (2M solution in diethylether, 10 mL) dropwise. The mixture was allowed to warm to room temperature. Ether (50 mL) was added, followed by 10% HCl (50 mL). The ether layer was then washed with H2O (25 mL) and brine (25 mL). The dried (MgSO4) ether layer was concentrated to dryness. The residue was triturated with hexanes to provide an off-white solid which was filtered and dried under vacuum to afford 1.38 g of 4-fluorophenyl boronic acid.

reactant | triisopropyl borate | 20 mmol, 4.6 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | 4-fluorophenylmagnesium bromide | 2M, 10 mL | FC1=CC=C(C=C1)[Mg]Br
reactant | Ether | 50 mL | CCOCC | C4H10O
reactant | HCl | 50 mL | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-fluorophenyl boronic acid | 1.38 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
